US07479558B2
4-(2-Methylsulfanyl-phenyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(2,6-difluorophenyl)-8H-pyrido[2,3-d]pyrimidin-7-one
A solution of 4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (50 mg, 0.13 mmol) in dioxane/H2O (3:1, 4.8 mL) was mixed with 2-methylthiophenyl boronic acid (33.8 mg, 0.20 mmol) and K2CO3 (54.3 mg, 0.39 mmol). The resultant mixture was bubbled with argon for 5 minutes, and added by Pd(PPh3)4 (3.0 mg, 0.0026 mmol). The reaction tube was sealed and heated with “Smith Creator” (microwave, 150° C.) for 15 minutes. The mixture was concentrated under vaco. Flash chromatography (EtOAc/Hexane, 3:1) then provided the title compound (89%): MS (ES) m/z 471 (M+H)+; 1H-NMR(CDCl3) δ 2.45 (s, 3H), 2.55 (s, br, 2H), 3.72 (m, br, 5H), 6.25 (m, br, 1H), 6.41 (m, 1H), 7.11 (m, 2H), 7.30 (m, 2H), 7.45 (m, 2H), 7.51 (m, 2H).

reactant | 4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.13 mmol, 50 mg | ClC=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C16H13ClF2N4O3
reactant | 2-methylthiophenyl boronic acid | 0.20 mmol, 33.8 mg | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | K2CO3 | 0.39 mmol, 54.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 4.8 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.0026 mmol, 3.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-Methylsulfanyl-phenyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(2,6-difluorophenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 89% | CSC1=C(C=CC=C1)C=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C23H20F2N4O3S
